US05399545
4.7 g of 1-(3-trifluoromethylphenoxy)-butan-2-ol and 2.7 g of benzyl isocyanate are dissolved in 60 ml of ethyl acetate. After addition of one drop of triethylamine, the reaction mixture is allowed to stand for 20 hours at 22° C. The solvent is stripped off and the residue is stirred in n-hexane. The desired crystalline product, O--[1-(3-trifluoromethylphenoxy)-2-butyl]-N-benzylcarbamate, is obtained in a yield of 5.2 g; m.p. 73°-74° C.

reactant | 1-(3-trifluoromethylphenoxy)-butan-2-ol | 4.7 g | FC(C=1C=C(OCC(CC)O)C=CC1)(F)F | C11H13F3O2
reactant | benzyl isocyanate | 2.7 g | C(C1=CC=CC=C1)N=C=O | C8H7NO
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
catalyst | triethylamine | one drop | C(C)N(CC)CC | C6H15N
solvent | n-hexane | CCCCCC | C6H14
product | [1-(3-trifluoromethylphenoxy)-2-butyl]-N-benzylcarbamate | FC(C=1C=C(OCC(CC)OC(NCC2=CC=CC=C2)=O)C=CC1)(F)F | C19H20F3NO3
